US09102625B2
A mixture of 6-chloro-4-(3-iodobenzylamino)nicotinamide (130 mg, 0.335 mmol), imidazole (30 mg, 0.441 mmol), 8-hydroxyquinoline (15 mg, 0.103 mmol), K2CO3 (60 mg, 0.434 mmol) and CuI (15 mg, 0.078 mmol) in DMSO (1 mL) was degassed with Ar, then was stirred at 130 C for 2 h. The mixture was purified by HPLC to give 4-(3-(1H-imidazol-1-yl)benzylamino)-6-chloronicotinamide (56 mg).

reactant | 6-chloro-4-(3-iodobenzylamino)nicotinamide | 0.335 mmol, 130 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC1=CC(=CC=C1)I | C13H11ClIN3O
reactant | imidazole | 0.441 mmol, 30 mg | N1C=NC=C1 | C3H4N2
reactant | 8-hydroxyquinoline | 0.103 mmol, 15 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 0.434 mmol, 60 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.078 mmol, 15 mg | [Cu]I
product | 4-(3-(1H-imidazol-1-yl)benzylamino)-6-chloronicotinamide | 56 mg | N1(C=NC=C1)C=1C=C(CNC2=CC(=NC=C2C(=O)N)Cl)C=CC1 | C16H14ClN5O
